US04179293
55 g of hydroquinone and 120 ml of 3,7,11-trimethyldodecan-3-ol were dissolved in 120 ml of methyl Cellosolve. Then, 50 ml of concentrated sulfuric acid (36 N) was added dropwise thereto under stirring and cooling so as to maintain the temperature at 40° C. or less. Subsequently, the reaction mixture was maintained at 50° to 55° C. for 4 hours. The resulting reaction mixture was added to ice-water, and extracted with 500 ml of benzene. The benzene layer was washed with water and, after drying over anhydrous sodium sulfate, benzene and unreacted 3,7,11-trimethyldodecan-3-ol were distilled off under reduced pressure. The residual oil was chromatographed on silica gel using benzene as a developing solvent. Thus, 41 g of 2,5-bis(1-ethyl-1,5,9-trimethyldecyl)hydroquinone (the same compound as obtained in Synthesis Example 1) was first eluted, and then 20 g of 2-(1-ethyl-1,5,9-trimethyldecyl)hydroquinone was eluted. The results of elemental analysis of the above-described monoalkyl hydroquinone are shown below.

reactant | hydroquinone | 55 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 3,7,11-trimethyldodecan-3-ol | 120 ml | CC(CC)(CCCC(CCCC(C)C)C)O | C15H32O
reactant | sulfuric acid | 36 N, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | methyl Cellosolve | 120 ml | COCCO | C3H8O2
product | 2,5-bis(1-ethyl-1,5,9-trimethyldecyl)hydroquinone | 41 g | C(C)C(CCCC(CCCC(C)C)C)(C)C1=C(O)C=C(C(=C1)O)C(CCCC(CCCC(C)C)C)(CC)C | C36H66O2
